US05116884
Benzoyl peroxide (2.6 grams) was dissolved in acetonitrile (150 milliliters). The solution was heated to 65° C. Catechol (6.0 grams) was then dissolved in the solution and was followed by the addition of triethyl amine (1.5 milliliters). The solution was continuously heated at 65° C. for about 16 hours. At the end of that period, the solution was cooled and then filtered with a 0.4 micron filter paper. Filtered material (5.0 milliliters) was mixed with 1-ethyl-3(3-dimethylaminopropyl) carbodiimide (130 milligrams). Following the mixture was combined with 2-hydroxyethyl methacrylate liquid (10 milliliters). Furthermore azobisisobutyronitrile (300 milligrams) was added to the mixture. The resultant mixture was heated in an oven at 60° C. The acetonitrile was evaporated and the 2-hydroxyethyl methacrylate monomer was polymerized to incorporate the melanin into the matrix and to form a melanin-containing thin soft contact lens. The absorption spectrum of the lens is shown in FIG. 9 and its transmission spectrum is shown in FIG. 10. The thickness of the lens was 2 millimeters.

reactant | Benzoyl peroxide | 2.6 grams | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Catechol | 6.0 grams | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | triethyl amine | 1.5 milliliters | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 milliliters | C(C)#N | C2H3N
product | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
